US07425642B2
N,N-Dimethyl-1H-imidazole-1-sulfonamide
Imidazole (5.00 g, 73.6 mmol) was dissolved in toluene (80 ml), and thereto were added triethylamine (9.52 ml, 68.4 mmol) and dimethylsulfamoyl chloride (6.77 ml, 63.3 mmol), and the mixture was stirred at room temperature for 8 hours. The precipitates were removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to azeotropic distillation with hexane to give the title compound (10.9 g, 98%).

reactant | Imidazole | 73.6 mmol, 5.00 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 68.4 mmol, 9.52 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 63.3 mmol, 6.77 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-1H-imidazole-1-sulfonamide | 10.9 g, 98% | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
